US09301951B2
Intermediate 131b: (S)-2-(5-(diethylamino)-2-nitrophenyl)-N-(1,2,3,4-tetrahydronaphthalen-1-yl)isonicotinamide
A mixture of (S)-2-(5-fluoro-2-nitrophenyl)-N-(1,2,3,4-tetrahydronaphthalen-1-yl)isonicotinamide (12.77 mmol, 5 g), diethylamine (25.55 mmol, 1.87 g), and K2CO3 (31.93 mmol, 4.41 g) in DMF (30 mL) was stirred at 60° C. overnight. The mixture was diluted with ethyl acetate, and the resulting solution was washed with water (2×), and then with brine. The solution was dried (Na2SO4) and the solvent was removed at reduced pressure. The residue was purified by chromatography on silica gel to give a yellow solid. (4.73 g, 83%).

reactant | (S)-2-(5-fluoro-2-nitrophenyl)-N-(1,2,3,4-tetrahydronaphthalen-1-yl)isonicotinamide | 12.77 mmol, 5 g | FC=1C=CC(=C(C1)C=1C=C(C(=O)N[C@H]2CCCC3=CC=CC=C23)C=CN1)[N+](=O)[O-] | C22H18FN3O3
reactant | diethylamine | 25.55 mmol, 1.87 g | C(C)NCC | C4H11N
reactant | K2CO3 | 31.93 mmol, 4.41 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-(5-(diethylamino)-2-nitrophenyl)-N-(1,2,3,4-tetrahydronaphthalen-1-yl)isonicotinamide | C(C)N(C=1C=CC(=C(C1)C=1C=C(C(=O)N[C@H]2CCCC3=CC=CC=C23)C=CN1)[N+](=O)[O-])CC | C26H28N4O3
